US04762949
(A) 4-guanidino-1-butanamine (IV)
To 1.8 g. of 1,4-diaminobutane dissolved in 50 ml. of H2O was added, dropwise, a solution of 2 g. of S-methylthiopseudourea.H2SO4 in 20 ml. of H2O. Throughout the addition, the solution was stirred vigorously and continued for 12 hours after the completion of addition. Then H2O was lyophilized, giving viscous colorless oil, which upon addition of 50 ml. of methanol precipitated 1.05 g. of white powder. Mass spec. (FD.) ions at m/e 228 and 130 for H2N--(CH2)4 --NHC(=NH)--NH2.H2O4 and H2N--(CH2)4 --NHC(=NH)--NH2, respectively.

reactant | 1,4-diaminobutane | NCCCCN | C4H12N2
reactant | S-methylthiopseudourea | CSC(N)=N | C2H6N2S
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
solvent | H2O | O | H2O
product | 4-guanidino-1-butanamine | N(C(=N)N)CCCCN | C5H14N4
